* C:\Users\Amteo\Desktop\ICD\Digital\Schematics\TestFIR_RACX.asc
* Generated by LTspice 26.0.1 for Windows.
V1 Xnew_0 0 PULSE(0 3.3 5n 100p 100p 500n 1000n 1)
V2 Xnew_1 0 PULSE(0 0 5n 100p 100p 50n 100n 1)
V3 Xnew_2 0 PULSE(0 0 5n 100p 100p 50n 100n 1)
V4 Xnew_3 0 PULSE(0 0 5n 100p 100p 50n 100n 1)
V5 Xnew_4 0 PULSE(0 0 5n 100p 100p 50n 100n 1)
V6 Xnew_5 0 PULSE(0 0 5n 100p 100p 50n 100n 1)
V7 Xold_0 0 {Xnew_0}
V8 Xold_1 0 {Xnew_1}
V9 Xold_2 0 {Xnew_2}
V10 Xold_3 0 {Xnew_3}
V11 Xold_4 0 {Xnew_4}
V12 Xold_5 0 {Xnew_5}
V13 Vdd 0 3.3
X§X2 N001 q0_0 q0_1 q0_2 q0_3 q0_4 q0_5 N002 q1_0 q1_1 q1_2 q1_3 q1_4 q1_5 N003 q2_0 q2_1 q2_2 q2_3 q2_4 q2_5 N004 q3_0 q3_1 q3_2 q3_3 q3_4 q3_5 Vdd y0 y1 y2 y3 y4 y5 24X6MUC
X§X3 q0 q1 vdd N001 N002 N003 N004 DECODER
X§X8 ck_fast vdd q0 q1 2bcount
V17 ck_fast 0 PULSE(0 3.3 'td' 'tt' 'tt' 'tclk/2' 'tclk')
V19 i_clk 0 PULSE(0 3.3 'td' 'tt' 'tt' '4*tclk/2' '4*tclk')
V20 i_rstb 0 PULSE(3.3 0 1n 'tt' 'tt' 5n)
X§X9 i_clk 0 0 o_D[2] o_D[3] o_D[4] o_D[5] Vdd 0 0 oc_0 oc_1 oc_2 oc_3 DFF_5
X§X4 i_clk phi0_0 phi0_1 phi0_2 phi0_3 phi0_4 phi0_5 Vdd q0_0 q0_1 q0_2 q0_3 q0_4 q0_5 DFF_5
X§X5 i_clk phi1_0 phi1_1 phi1_2 phi1_3 phi1_4 phi1_5 Vdd q1_0 q1_1 q1_2 q1_3 q1_4 q1_5 DFF_5
X§X6 i_clk phi2_0 phi2_1 phi2_2 phi2_3 phi2_4 phi2_5 Vdd q2_0 q2_1 q2_2 q2_3 q2_4 q2_5 DFF_5
X§X7 i_clk phi3_0 phi3_1 phi3_2 phi3_3 phi3_4 phi3_5 Vdd q3_0 q3_1 q3_2 q3_3 q3_4 q3_5 DFF_5
X§X10 Vdd 0 oc_0 oc_1 oc_2 oc_3 q0_2 q0_3 q0_4 q0_5 phi0_0 phi0_1 phi0_2 phi0_3 phi0_4 phi0_5 phi1_0 phi1_1 phi1_2 phi1_3 phi1_4 phi1_5 phi2_0 phi2_1 phi2_2 phi2_3 phi2_4 phi2_5 phi3_0 phi3_1 phi3_2 phi3_3 phi3_4 phi3_5 pseudo_FIR_CLA_NoCin
X§X11 i_clk i_rstb o_D[1] o_D[0] o_D[5] o_D[4] o_D[3] o_D[2] RAMP

* block symbol definitions
.subckt 24X6MUC PHI0 PHI0_0 PHI0_1 PHI0_2 PHI0_3 PHI0_4 PHI0_5 PHI1 PHI1_0 PHI1_1 PHI1_2 PHI1_3 PHI1_4 PHI1_5 PHI2 PHI2_0 PHI2_1 PHI2_2 PHI2_3 PHI2_4 PHI2_5 PHI3 PHI3_0 PHI3_1 PHI3_2 PHI3_3 PHI3_4 PHI3_5 Vdd Y0 Y1 Y2 Y3 Y4 Y5
X§X1 PHI0 Vdd PHI0_0 PHI0_1 PHI0_2 PHI0_3 PHI0_4 PHI0_5 Y0 Y1 Y2 Y3 Y4 Y5 6X6TG
X§X2 PHI1 Vdd PHI1_0 PHI1_1 PHI1_2 PHI1_3 PHI1_4 PHI1_5 Y0 Y1 Y2 Y3 Y4 Y5 6X6TG
X§X3 PHI2 Vdd PHI2_0 PHI2_1 PHI2_2 PHI2_3 PHI2_4 PHI2_5 Y0 Y1 Y2 Y3 Y4 Y5 6X6TG
X§X4 PHI3 Vdd PHI3_0 PHI3_1 PHI3_2 PHI3_3 PHI3_4 PHI3_5 Y0 Y1 Y2 Y3 Y4 Y5 6X6TG
.ends 24X6MUC

.subckt DECODER Q0 Q1 Vdd PHI_0 PHI_1 PHI_2 PHI_3
X§X2 Q0 Q1 Vdd 0 PHI_0 NOR2x1
X§X3 Q0 Q1 Vdd N003 0 NAND2x1
X§X4 N003 Vdd PHI_3 0 INVx1
X§X5 Q0_BAR Q1 Vdd N002 0 NAND2x1
X§X6 N002 Vdd PHI_2 0 INVx1
X§X7 Q0 Q1_BAR Vdd N001 0 NAND2x1
X§X8 N001 Vdd PHI_1 0 INVx1
X§X9 Q0 Vdd Q0_BAR 0 INVx1
X§X10 Q1 Vdd Q1_BAR 0 INVx1
.ends DECODER

.subckt 2bcount CK Vdd Q0 Q1
X§X1 Q1 Q0 Vdd N001 XORX1
X§X2 CK N002 Vdd Q0 N002 DFF
X§X3 CK N001 Vdd Q1 NC_01 DFF
.ends 2bcount

.subckt DFF_5 ck d0 d1 d2 d3 d4 d5 vdd q0 q1 q2 q3 q4 q5
X§X1 ck d0 Vdd q0 NC_01 DFF
X§X2 ck d1 Vdd q1 NC_02 DFF
X§X3 ck d2 Vdd q2 NC_03 DFF
X§X4 ck d3 Vdd q3 NC_04 DFF
X§X5 ck d4 Vdd q4 NC_05 DFF
X§X6 ck d5 Vdd q5 NC_06 DFF
.ends DFF_5

.subckt pseudo_FIR_CLA_NoCin Vdd Vee Xnew_0 Xnew_1 Xnew_2 Xnew_3 Xold_0 Xold_1 Xold_2 Xold_3 phi0_0 phi0_1 phi0_2 phi0_3 phi0_4 phi0_5 phi1_0 phi1_1 phi1_2 phi1_3 phi1_4 phi1_5 phi2_0 phi2_1 phi2_2 phi2_3 phi2_4 phi2_5 phi3_0 phi3_1 phi3_2 phi3_3 phi3_4 phi3_5
V1 phi0_0 Vee 0
V2 phi0_1 Vee 0
V3 phi0_2 Xnew_0 0
V4 phi0_3 Xnew_1 0
V5 phi0_4 Xnew_2 0
V6 phi0_5 Xnew_3 0
V7 phi2_0 Vee 0
X§X2 phi2_1 phi2_2 phi2_3 phi2_4 phi2_5 Vee Xold_0 Xold_1 Xold_2 Xold_3 Vdd Vee phi1_5 phi1_0 phi1_1 phi1_2 phi1_3 phi1_4 pseudo-CLA-5bit-NoCin
X§X3 phi2_1 phi2_2 phi2_3 phi2_4 phi2_5 Vee Xnew_0 Xnew_1 Xnew_2 Xnew_3 Vdd Vee phi3_5 phi3_0 phi3_1 phi3_2 phi3_3 phi3_4 pseudo-CLA-5bit-NoCin
X§X1 Xold_0 Xold_1 Xold_2 Xold_3 Xnew_0 Xnew_1 Xnew_2 Xnew_3 Vdd Vee phi2_5 phi2_1 phi2_2 phi2_3 phi2_4 pseudo-CLA-4bit-NoCin
.ends pseudo_FIR_CLA_NoCin

.subckt RAMP i_clk i_rstb o_D[1] o_D[0] o_D[5] o_D[4] o_D[3] o_D[2]
A1[3] m[3] 0 i_clk 0 m_rst Db[5] n[3] 0 DFLOP Vhigh = 3.3 Vlow = 0 Trise = 'tt' Tfall = 'tt'
A1[2] m[2] 0 i_clk 0 m_rst Db[4] n[2] 0 DFLOP Vhigh = 3.3 Vlow = 0 Trise = 'tt' Tfall = 'tt'
A1[1] m[1] 0 i_clk 0 m_rst Db[3] n[1] 0 DFLOP Vhigh = 3.3 Vlow = 0 Trise = 'tt' Tfall = 'tt'
A1[0] m[0] 0 i_clk 0 m_rst Db[2] n[0] 0 DFLOP Vhigh = 3.3 Vlow = 0 Trise = 'tt' Tfall = 'tt'
V1[1] o_D[1] 0 0
V1[0] o_D[0] 0 0
A2 i_rstb 0 0 0 0 m_rst 0 0 BUF Vhigh = 3.3 Vlow = 0
A7 0 0 0 0 0 N001 0 0 BUF Vhigh = 3.3 Vlow = 0 Trise = 'tt' Tfall = 'tt'
A8[3] Db[5] 0 0 0 0 o_D[5] 0 0 BUF Vhigh = 3.3 Vlow = 0 Trise = 'tt' Tfall = 'tt'
A8[2] Db[4] 0 0 0 0 o_D[4] 0 0 BUF Vhigh = 3.3 Vlow = 0 Trise = 'tt' Tfall = 'tt'
A8[1] Db[3] 0 0 0 0 o_D[3] 0 0 BUF Vhigh = 3.3 Vlow = 0 Trise = 'tt' Tfall = 'tt'
A8[0] Db[2] 0 0 0 0 o_D[2] 0 0 BUF Vhigh = 3.3 Vlow = 0 Trise = 'tt' Tfall = 'tt'
.param tt = 50p
.ends RAMP

.subckt 6X6TG A Vdd X0 X1 X2 X3 X4 X5 Y0 Y1 Y2 Y3 Y4 Y5
X§X1 A A_BAR X0 Vdd Y0 TGATE params: L=0.28u Wn=1u Wp=3u M=1
X§X5 A Vdd A_BAR 0 INVx1
X§X2 A A_BAR X1 Vdd Y1 TGATE params: L=0.28u Wn=1u Wp=3u M=1
X§X3 A A_BAR X2 Vdd Y2 TGATE params: L=0.28u Wn=1u Wp=3u M=1
X§X6 A A_BAR X3 Vdd Y3 TGATE params: L=0.28u Wn=1u Wp=3u M=1
X§X7 A A_BAR X4 Vdd Y4 TGATE params: L=0.28u Wn=1u Wp=3u M=1
X§X8 A A_BAR X5 Vdd Y5 TGATE params: L=0.28u Wn=1u Wp=3u M=1
.ends 6X6TG

.subckt NOR2x1 A B Vdd Vee X
M1 X B Vee Vee nmos_3p3 l={L} w={Wn}
M3 N001 A X Vdd pmos_3p3 l={L} w={Wp}
M4 Vdd B N001 Vdd pmos_3p3 l={L} w={Wp}
M2 X A Vee Vee nmos_3p3 l={L} w={Wn}
.param Wp=6u Wn=1u L=0.28u
.ends NOR2x1

.subckt NAND2x1 A B Vdd X Vee
M1 N001 B Vee Vee nmos_3p3 l={L} w={Wn}
M3 Vdd A X Vdd pmos_3p3 l={L} w={Wp}
M4 Vdd B X Vdd pmos_3p3 l={L} w={Wp}
M2 X A N001 Vee nmos_3p3 l={L} w={Wn}
.param Wp=3u Wn=2u L=0.28u
.ends NAND2x1

.subckt INVx1 A Vdd X Vee
M1 X A Vee Vee nmos_3p3 l={L} w={Wn}
M2 Vdd A X Vdd pmos_3p3 l={L} w={Wp}
.param Wp=3u Wn=1u L=0.28u
.ends INVx1

.subckt XORX1 A B Vdd OUT
M1 A B_bar OUT 0 nmos_3p3 l='L' w='Wn' m='M'
M2 OUT B A Vdd pmos_3p3 l='L' w='Wp' m='M'
M3 OUT B A_bar 0 nmos_3p3 l='L' w='Wn' m='M'
M4 A_bar B_bar OUT Vdd pmos_3p3 l='L' w='Wp' m='M'
X§X1 A Vdd A_bar 0 INVx1
X§X2 B Vdd B_bar 0 INVx1
.param L=0.28u Wn=1u Wp=2u M=1
.ends XORX1

.subckt DFF CK D Vdd Q Q_BAR
X§X5 D Vdd N001 0 INVx1
X§X2 N002 Vdd N003 0 INVx1
X§X3 N003 Vdd N005 0 INVx1
X§X4 CK CK_BAR N005 Vdd N002 TGATE params: L=0.28u Wn={Wn} Wp={Wp} M=1
X§X6 CK CK_BAR N003 Vdd N004 TGATE params: L=0.28u Wn={Wn} Wp={Wp} M=1
X§X7 N004 Vdd Q_BAR 0 INVx1
X§X8 Q_BAR Vdd N006 0 INVx1
X§X9 CK_BAR CK N006 Vdd N004 TGATE params: L=0.28u Wn={Wn} Wp={Wp} M=1
X§X10 Q_BAR Vdd Q 0 INVx1
X§X11 CK Vdd CK_BAR 0 INVx1
X§X1 CK_BAR CK N001 Vdd N002 TGATE params: L=0.28u Wn={Wn} Wp={Wp} M=1
.param Wp=3u Wn=1u
.ends DFF

.subckt pseudo-CLA-5bit-NoCin A_0 A_1 A_2 A_3 A_4 B_0 B_1 B_2 B_3 B_4 Vdd Vee Co_4 S0 S1 S2 S3 S4
X§X34 N013 Vdd N014 Vee INVx1
X§X35 N007 Vdd N008 Vee INVx1
X§X36 N005 Vdd N006 Vee INVx1
X§X37 N002 Vdd S2 Vee INVx1
X§X38 N003 Vdd S3 Vee INVx1
X§X39 N001 Vdd S1 Vee INVx1
X§X42 P_2 G_1 Vdd N013 Vee NAND2x1
X§X43 P_3 G_2 Vdd N007 Vee NAND2x1
X§X44 P_1 Co_0 Vdd N005 Vee NAND2x1
X§X47 P_1 Co_0 Vdd Vee N001 XNOR2x1
X§X48 P_2 Co_1 Vdd Vee N002 XNOR2x1
X§X49 P_3 Co_2 Vdd Vee N003 XNOR2x1
X§X1 A_0 B_0 Vdd Vee Co_0 P_0 PG
X§X2 A_1 B_1 Vdd Vee G_1 P_1 PG
X§X3 A_2 B_2 Vdd Vee G_2 P_2 PG
X§X4 A_3 B_3 Vdd Vee G_3 P_3 PG
X§X14 A_4 B_4 Vdd Vee G_4 P_4 PG
X§X15 N004 Vdd S4 Vee INVx1
X§X16 P_4 Co_3 Vdd Vee N004 XNOR2x1
X§X17 N017 Vdd N018 Vee INVx1
X§X18 P_4 G_3 Vdd N017 Vee NAND2x1
X§X25 P_1 P_2 Co_0 Vdd Vee N015 3-NAND
X§X26 P_2 P_3 G_1 Vdd Vee N010 3-NAND
X§X27 P_3 P_4 G_2 Vdd Vee N019 3-NAND
X§X29 P_1 P_2 P_3 Co_0 Vdd Vee N012 4-NAND
X§X30 P_2 P_3 P_4 G_1 Vdd Vee N020 4-NAND
X§X50 P_1 P_2 P_3 P_4 Co_0 Vdd Vee N022 5-NAND
X§X5 N006 G_1 Vdd Vee N009 pseudoNOR-2
X§X7 N008 N010 N012 G_3 Vdd Vee N011 pseudoNOR-4
X§X8 N018 N019 N020 N022 G_4 Vdd Vee N021 pseudoNOR-5
X§X10 N009 Vdd Co_1 Vee INVx1
X§X11 N011 Vdd Co_3 Vee INVx1
X§X12 N021 Vdd Co_4 Vee INVx1
X§X13 N016 Vdd Co_2 Vee INVx1
X§X6 N014 N015 G_2 Vdd Vee N016 pseudoNOR-3
V1 S0 P_0 0
.param a=0.7
.ends pseudo-CLA-5bit-NoCin

.subckt pseudo-CLA-4bit-NoCin A_0 A_1 A_2 A_3 B_0 B_1 B_2 B_3 Vdd Vee Co_3 S0 S1 S2 S3
X§X47 P_1 Co_0 Vdd Vee N013 XNOR2x1
X§X48 P_2 Co_1 Vdd Vee N007 XNOR2x1
X§X49 P_3 Co_2 Vdd Vee N001 XNOR2x1
X§X1 A_0 B_0 Vdd Vee G_0 P_0 PG
X§X2 A_1 B_1 Vdd Vee G_1 P_1 PG
X§X3 A_2 B_2 Vdd Vee G_2 P_2 PG
X§X4 A_3 B_3 Vdd Vee G_3 P_3 PG
V1 Co_0 G_0 0
X§X13 P_1 G_0 Vdd N002 Vee NAND2x1
X§X14 P_2 G_1 Vdd N011 Vee NAND2x1
X§X15 P_3 G_2 Vdd N004 Vee NAND2x1
X§X16 N002 Vdd N003 Vee INVx1
X§X10 N006 Vdd Co_1 Vee INVx1
X§X12 N011 Vdd N012 Vee INVx1
X§X17 N015 Vdd Co_2 Vee INVx1
X§X18 N004 Vdd N005 Vee INVx1
X§X19 N009 Vdd Co_3 Vee INVx1
X§X20 N001 Vdd S3 Vee INVx1
X§X21 N007 Vdd S2 Vee INVx1
X§X22 N013 Vdd S1 Vee INVx1
X§X6 N003 G_1 Vdd Vee N006 pseudoNOR-2
X§X7 N012 N014 G_2 Vdd Vee N015 pseudoNOR-3
X§X9 N005 N008 N010 G_3 Vdd Vee N009 pseudoNOR-4
X§X5 P_1 P_2 G_0 Vdd Vee N014 3-NAND
X§X8 P_1 P_2 P_3 G_0 Vdd Vee N010 4-NAND
X§X11 P_2 P_3 G_1 Vdd Vee N008 3-NAND
V2 S0 P_0 0
.ends pseudo-CLA-4bit-NoCin

.subckt TGATE A A_bar IN Vdd OUT
M1 IN A OUT 0 nmos_3p3 l='L' w='Wn' m='M'
M2 OUT A_bar IN Vdd pmos_3p3 l='L' w='Wp' m='M'
.param L=0.28u Wn=1u Wp=3u M=1
.ends TGATE

.subckt XNOR2x1 A B Vdd Vee X
M1 X B A Vee nmos_3p3 l={L} w={Wn }
M3 A N001 X Vdd pmos_3p3 l={L} w={Wp}
X§X1 B Vdd N001 Vee INVx1
X§X2 A Vdd N002 Vee INVx1
M2 X N001 N002 Vee nmos_3p3 l={L} w={Wn}
M4 N002 B X Vdd pmos_3p3 l={L} w={Wp}
.param Wp=3u Wn=1u L=0.28u
.ends XNOR2x1

.subckt PG A B Vdd Vee G P
X§X5 A B Vdd Vee N001 XNOR2x1
X§X6 A B Vdd N002 Vee NAND2x1
X§X7 N002 Vdd G Vee INVx1
X§X8 N001 Vdd P Vee INVx1
.ends PG

.subckt 3-NAND A B C Vdd Vee X
X§X3 N003 Vdd X Vee INVx1
X§X4 N001 Vdd N002 Vee INVx1
X§X7 A B Vdd N001 Vee NAND2x1
X§X8 N002 C Vdd N003 Vee NAND2x1
.ends 3-NAND

.subckt 4-NAND A B C D Vdd Vee X
X§X7 A B Vdd N001 Vee NAND2x1
X§X8 C D Vdd N005 Vee NAND2x1
X§X9 N002 N004 Vdd N003 Vee NAND2x1
X§X10 N001 Vdd N002 Vee INVx1
X§X11 N005 Vdd N004 Vee INVx1
X§X12 N003 Vdd X Vee INVx1
.ends 4-NAND

.subckt 5-NAND A B C D E Vdd Vee X
X§X1 N001 E Vdd N002 Vee NAND2x1
X§X2 N002 Vdd X Vee INVx1
.ends 5-NAND

.subckt pseudoNOR-2 A B Vdd Vee X
M3 X B Vee Vee nmos_3p3 l={L} w={Wn}
M1 Vdd Vee X Vdd pmos_3p3 l={L} w={Wp}
M2 X A Vee Vee nmos_3p3 l={L} w={Wn}
.param L=0.28u Wn=1u Wp={a*Wn}
.ends pseudoNOR-2

.subckt pseudoNOR-4 A B C D Vdd Vee X
M3 X B Vee Vee nmos_3p3 l={L} w={Wn}
M1 Vdd Vee X Vdd pmos_3p3 l={L} w={Wp}
M2 X A Vee Vee nmos_3p3 l={L} w={Wn}
M4 X C Vee Vee nmos_3p3 l={L} w={Wn}
M5 X D Vee Vee nmos_3p3 l={L} w={Wn}
.param L=0.28u Wn=1u Wp={a*Wn}
.ends pseudoNOR-4

.subckt pseudoNOR-5 A B C D E Vdd Vee X
M3 X B Vee Vee nmos_3p3 l={L} w={Wn}
M1 Vdd Vee X Vdd pmos_3p3 l={L} w={Wp}
M2 X A Vee Vee nmos_3p3 l={L} w={Wn}
M4 X C Vee Vee nmos_3p3 l={L} w={Wn}
M5 X D Vee Vee nmos_3p3 l={L} w={Wn}
M6 X E Vee Vee nmos_3p3 l={L} w={Wn}
.param L=0.28u Wn=1u Wp={a*Wn}
.ends pseudoNOR-5

.subckt pseudoNOR-3 A B C Vdd Vee X
M3 X B Vee Vee nmos_3p3 l={L} w={Wn}
M1 Vdd Vee X Vdd pmos_3p3 l={L} w={Wp}
M2 X A Vee Vee nmos_3p3 l={L} w={Wn}
M4 X C Vee Vee nmos_3p3 l={L} w={Wn}
.param L=0.28u Wn=1u Wp={a*Wn}
.ends pseudoNOR-3

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Amteo\AppData\Local\LTspice\lib\cmp\standard.mos
.param Xold_0=0 Xold_1=0 Xold_2=0 Xold_3=0 Xold_4=0 Xold_5=0
.param Xnew_0=0 Xnew_1=0 Xnew_2=0 Xnew_3=0 Xnew_4=0 Xnew_5=0
* .tran 0 100n 0 10p
.inc ..\..\gf180\cmos_tt.txt
.measure tran tphi1_A TRIG V(xold_5) VAL=1.65 RISE=1 TARG V(phi1_5) VAL=1.65 RISE=1
.measure tran tphi1_B TRIG V(Xold_0) VAL=1.65 RISE=1 TARG V(phi1_4) VAL=1.65 RISE=1
.param a=0.9
* (0.25*V(phi0_0) + 0.5*V(phi0_1) + V(phi0_2) + 2*V(phi0_3) + 4*V(phi0_4) + 8*V(phi0_5))/3.3\n(0.25*V(phi1_0) + 0.5*V(phi1_1) + V(phi1_2) + 2*V(phi1_3) + 4*V(phi1_4) + 8*V(phi1_5))/3.3\n(0.25*V(phi2_0) + 0.5*V(phi2_1) + V(phi2_2) + 2*V(phi2_3) + 4*V(phi2_4) + 8*V(phi2_5))/3.3\n(0.25*V(phi3_0) + 0.5*V(phi3_1) + V(phi3_2) + 2*V(phi3_3) + 4*V(phi3_4) + 8*V(phi3_5))/3.3
* (0.25*V(y0)+0.5*V(y1)+V(y2)+2*V(y3)+4*V(y4)+8*V(y5))/3.3
.tran {100*t_oc}
.param f_oc = 1.46G
.param t_oc = {1/f_oc}
.param tclk = {t_oc}
.param td = {t_oc/5}
.param tt = 10p
.ic V(phi0_0)=0 V(phi0_1)=0 V(phi0_2)=0 V(phi0_3)=0 V(phi0_4)=0 V(phi0_5)=0
.meas TRAN avg_I AVG I(Vdd) FROM=10n TO=110n
.meas TRAN Pavg PARAM avg_I*3.3
.backanno
.end
