* C:\Users\Vicente\Desktop\UC\Semestre 11\Proyectos\ICD\Digital\Schematics\TestFIR_pseudoCLA_NoCin.asc
V1 Xold_0 0 PULSE(0 3.3 5n 100p 100p 50n 100n 1)
V2 Xold_1 0 PULSE(0 0 5n 100p 100p 50n 100n 1)
V3 Xold_2 0 PULSE(0 0 5n 100p 100p 50n 100n 1)
V4 Xold_3 0 PULSE(0 0 5n 100p 100p 50n 100n 1)
V7 Xnew_0 0 {Xnew_0}
V8 Xnew_1 0 {Xnew_1}
V9 Xnew_2 0 {Xnew_2}
V10 Xnew_3 0 {Xnew_3}
V13 Vdd 0 3.3
V5 phi0_0 0 0
V6 phi0_1 0 0
V11 phi0_2 Xold_0 0
V12 phi0_3 Xold_1 0
V14 phi0_4 Xold_2 0
V15 phi0_5 Xold_3 0
V16 phi2_0 0 0
XX2 S1_0 S1_1 S1_2 S1_3 S1_4 0 Xold_0 Xold_1 Xold_2 Xold_3 Vdd 0 S2_5 S2_0 S2_1 S2_2 S2_3 S2_4 pseudo-cla-5bit-nocin
XX3 S1_0 S1_1 S1_2 S1_3 S1_4 0 Xnew_0 Xnew_1 Xnew_2 Xnew_3 Vdd 0 S3_5 S3_0 S3_1 S3_2 S3_3 S3_4 pseudo-cla-5bit-nocin
XX4 Xold_0 Xold_1 Xold_2 Xold_3 Xnew_0 Xnew_1 Xnew_2 Xnew_3 Vdd 0 S1_4 S1_0 S1_1 S1_2 S1_3 pseudo-cla-4bit-nocin
V17 Vee 0 0

* block symbol definitions
.subckt pseudo-cla-5bit-nocin A_0 A_1 A_2 A_3 A_4 B_0 B_1 B_2 B_3 B_4 Vdd Vee Co_4 S0 S1 S2 S3 S4
XX34 N013 Vdd N014 Vee invx1
XX35 N007 Vdd N008 Vee invx1
XX36 N005 Vdd N006 Vee invx1
XX37 N002 Vdd S2 Vee invx1
XX38 N003 Vdd S3 Vee invx1
XX39 N001 Vdd S1 Vee invx1
XX42 P_2 G_1 Vdd N013 Vee nand2x1
XX43 P_3 G_2 Vdd N007 Vee nand2x1
XX44 P_1 Co_0 Vdd N005 Vee nand2x1
XX47 P_1 Co_0 Vdd Vee N001 xnor2x1
XX48 P_2 Co_1 Vdd Vee N002 xnor2x1
XX49 P_3 Co_2 Vdd Vee N003 xnor2x1
XX1 A_0 B_0 Vdd Vee Co_0 P_0 pg
XX2 A_1 B_1 Vdd Vee G_1 P_1 pg
XX3 A_2 B_2 Vdd Vee G_2 P_2 pg
XX4 A_3 B_3 Vdd Vee G_3 P_3 pg
XX14 A_4 B_4 Vdd Vee G_4 P_4 pg
XX15 N004 Vdd S4 Vee invx1
XX16 P_4 Co_3 Vdd Vee N004 xnor2x1
XX17 N017 Vdd N018 Vee invx1
XX18 P_4 G_3 Vdd N017 Vee nand2x1
XX25 P_1 P_2 Co_0 Vdd Vee N015 3-nand
XX26 P_2 P_3 G_1 Vdd Vee N010 3-nand
XX27 P_3 P_4 G_2 Vdd Vee N019 3-nand
XX29 P_1 P_2 P_3 Co_0 Vdd Vee N012 4-nand
XX30 P_2 P_3 P_4 G_1 Vdd Vee N020 4-nand
XX50 P_1 P_2 P_3 P_4 Co_0 Vdd Vee N022 5-nand
XX5 N006 G_1 Vdd Vee N009 pseudonor-2
XX7 N008 N010 N012 G_3 Vdd Vee N011 pseudonor-4
XX8 N018 N019 N020 N022 G_4 Vdd Vee N021 pseudonor-5
XX10 N009 Vdd Co_1 Vee invx1
XX11 N011 Vdd Co_3 Vee invx1
XX12 N021 Vdd Co_4 Vee invx1
XX13 N016 Vdd Co_2 Vee invx1
XX6 N014 N015 G_2 Vdd Vee N016 pseudonor-3
V1 S0 P_0 0
.param a=0.7
.ends pseudo-cla-5bit-nocin

.subckt pseudo-cla-4bit-nocin A_0 A_1 A_2 A_3 B_0 B_1 B_2 B_3 Vdd Vee Co_3 S0 S1 S2 S3
XX47 P_1 Co_0 Vdd Vee N013 xnor2x1
XX48 P_2 Co_1 Vdd Vee N007 xnor2x1
XX49 P_3 Co_2 Vdd Vee N001 xnor2x1
XX1 A_0 B_0 Vdd Vee G_0 P_0 pg
XX2 A_1 B_1 Vdd Vee G_1 P_1 pg
XX3 A_2 B_2 Vdd Vee G_2 P_2 pg
XX4 A_3 B_3 Vdd Vee G_3 P_3 pg
V1 Co_0 G_0 0
XX13 P_1 G_0 Vdd N002 Vee nand2x1
XX14 P_2 G_1 Vdd N011 Vee nand2x1
XX15 P_3 G_2 Vdd N004 Vee nand2x1
XX16 N002 Vdd N003 Vee invx1
XX10 N006 Vdd Co_1 Vee invx1
XX12 N011 Vdd N012 Vee invx1
XX17 N015 Vdd Co_2 Vee invx1
XX18 N004 Vdd N005 Vee invx1
XX19 N009 Vdd Co_3 Vee invx1
XX20 N001 Vdd S3 Vee invx1
XX21 N007 Vdd S2 Vee invx1
XX22 N013 Vdd S1 Vee invx1
XX6 N003 G_1 Vdd Vee N006 pseudonor-2
XX7 N012 N014 G_2 Vdd Vee N015 pseudonor-3
XX9 N005 N008 N010 G_3 Vdd Vee N009 pseudonor-4
XX5 P_1 P_2 G_0 Vdd Vee N014 3-nand
XX8 P_1 P_2 P_3 G_0 Vdd Vee N010 4-nand
XX11 P_2 P_3 G_1 Vdd Vee N008 3-nand
V2 S0 P_0 0
.ends pseudo-cla-4bit-nocin

.subckt invx1 A Vdd X Vee
M1 X A Vee Vee nmos_3p3 l={L} w={Wn}
M2 Vdd A X Vdd pmos_3p3 l={L} w={Wp}
.param Wp=3u Wn=1u L=0.28u
.ends invx1

.subckt nand2x1 A B Vdd X Vee
M1 N001 B Vee Vee nmos_3p3 l={L} w={Wn}
M3 Vdd A X Vdd pmos_3p3 l={L} w={Wp}
M4 Vdd B X Vdd pmos_3p3 l={L} w={Wp}
M2 X A N001 Vee nmos_3p3 l={L} w={Wn}
.param Wp=3u Wn=2u L=0.28u
.ends nand2x1

.subckt xnor2x1 A B Vdd Vee X
M1 X B A Vee nmos_3p3 l={L} w={Wn }
M3 A N001 X Vdd pmos_3p3 l={L} w={Wp}
XX1 B Vdd N001 Vee invx1
XX2 A Vdd N002 Vee invx1
M2 X N001 N002 Vee nmos_3p3 l={L} w={Wn}
M4 N002 B X Vdd pmos_3p3 l={L} w={Wp}
.param Wp=3u Wn=1u L=0.28u
.ends xnor2x1

.subckt pg A B Vdd Vee G P
XX5 A B Vdd Vee N001 xnor2x1
XX6 A B Vdd N002 Vee nand2x1
XX7 N002 Vdd G Vee invx1
XX8 N001 Vdd P Vee invx1
.ends pg

.subckt 3-nand A B C Vdd Vee X
XX3 N003 Vdd X Vee invx1
XX4 N001 Vdd N002 Vee invx1
XX7 A B Vdd N001 Vee nand2x1
XX8 N002 C Vdd N003 Vee nand2x1
.ends 3-nand

.subckt 4-nand A B C D Vdd Vee X
XX7 A B Vdd N001 Vee nand2x1
XX8 C D Vdd N005 Vee nand2x1
XX9 N002 N004 Vdd N003 Vee nand2x1
XX10 N001 Vdd N002 Vee invx1
XX11 N005 Vdd N004 Vee invx1
XX12 N003 Vdd X Vee invx1
.ends 4-nand

.subckt 5-nand A B C D E Vdd Vee X
XX1 N001 E Vdd N002 Vee nand2x1
XX2 N002 Vdd X Vee invx1
XX4 A B C D Vdd Vee N001 4-nand
.ends 5-nand

.subckt pseudonor-2 A B Vdd Vee X
M3 X B Vee Vee nmos_3p3 l={L} w={Wn}
M1 Vdd Vee X Vdd pmos_3p3 l={L} w={Wp}
M2 X A Vee Vee nmos_3p3 l={L} w={Wn}
.param L=0.28u Wn=1u Wp={a*Wn}
.ends pseudonor-2

.subckt pseudonor-4 A B C D Vdd Vee X
M3 X B Vee Vee nmos_3p3 l={L} w={Wn}
M1 Vdd Vee X Vdd pmos_3p3 l={L} w={Wp}
M2 X A Vee Vee nmos_3p3 l={L} w={Wn}
M4 X C Vee Vee nmos_3p3 l={L} w={Wn}
M5 X D Vee Vee nmos_3p3 l={L} w={Wn}
.param L=0.28u Wn=1u Wp={a*Wn}
.ends pseudonor-4

.subckt pseudonor-5 A B C D E Vdd Vee X
M3 X B Vee Vee nmos_3p3 l={L} w={Wn}
M1 Vdd Vee X Vdd pmos_3p3 l={L} w={Wp}
M2 X A Vee Vee nmos_3p3 l={L} w={Wn}
M4 X C Vee Vee nmos_3p3 l={L} w={Wn}
M5 X D Vee Vee nmos_3p3 l={L} w={Wn}
M6 X E Vee Vee nmos_3p3 l={L} w={Wn}
.param L=0.28u Wn=1u Wp={a*Wn}
.ends pseudonor-5

.subckt pseudonor-3 A B C Vdd Vee X
M3 X B Vee Vee nmos_3p3 l={L} w={Wn}
M1 Vdd Vee X Vdd pmos_3p3 l={L} w={Wp}
M2 X A Vee Vee nmos_3p3 l={L} w={Wn}
M4 X C Vee Vee nmos_3p3 l={L} w={Wn}
.param L=0.28u Wn=1u Wp={a*Wn}
.ends pseudonor-3

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Vicente\AppData\Local\LTspice\lib\cmp\standard.mos
.param Xold_0=0 Xold_1=0 Xold_2=0 Xold_3=0
.param Xnew_0=0 Xnew_1=0 Xnew_2=0 Xnew_3=0
.tran 0 15n 0 10p
.inc ..\..\gf180\cmos_tt.txt
.measure tran tphi1_A TRIG V(xold_5) VAL=1.65 RISE=1 TARG V(phi1_5) VAL=1.65 RISE=1
.measure tran tphi1_B TRIG V(Xold_0) VAL=1.65 RISE=1 TARG V(phi1_4) VAL=1.65 RISE=1
.param a=0.7
* PHI_0 OUTPUTS
* PHI_1 OUTPUTS
* PHI_3 OUTPUTS
* PHI_2 OUTPUTS
* X[k] INPUTS
* X[k+1] INPUTS
* Output [5:0]:
* - Output[5:2] -> 0 a 15\n- Output[1:0] -> 00=>0; 01=>1/4; 10=>1/2; 11=>3/4
* S + Xnew*2 (shifted)
* S + Xold*2 (shifted)
* S = Xold + Xnew
.backanno
.end
